US06713471B1
The crude 1-chloro-2-[(3-chloropropyl)sulfanyl]-3-nitrobenzene was dissolved in MeOH (150 mL) and degassed with N2. Palladium hydroxide (1.8 g) was added in four portions to this solution in a Parr appararus. The resulting heterogeneous solution was shaken under hydrogenation conditions (55 psi) at room temp for 18 h. The catalyst was removed via filtration in the same manner as above and the filtrate was concentrated in vacuo. to afford 3-chloro-2-[(3-chloropropyl)sulfanyl]aniline (9.94 g, 93%) as a dark oil: 1H NMR (CHCl3, 300 MHz) δ7.03 (t, 1H, J=8.1 Hz), 6.82 (t, 1H, J=8.1 Hz), 6.63 (t, 1H, J=8.0 Hz), 4.62 (br s, 1H), 3.68 (t, 2H, J=6.4 Hz), 2.92 (t, 2H, J=6.9 Hz), 1.98 (quintet, 2H, J=6.6 Hz) ppm.

reactant | 1-chloro-2-[(3-chloropropyl)sulfanyl]-3-nitrobenzene | ClC1=C(C(=CC=C1)[N+](=O)[O-])SCCCCl | C9H9Cl2NO2S
solvent | MeOH | 150 mL | CO | CH4O
product | 3-chloro-2-[(3-chloropropyl)sulfanyl]aniline | 9.94 g, 93% | ClC=1C(=C(N)C=CC1)SCCCCl | C9H11Cl2NS
